US06235771B1
In acetone (100 ml) were suspended 4-bromo-1,2-dihydroxybenzene (9.0 g), 1-bromopropane (9.1 ml), potassium carbonate (19.7 g) and sodium iodide (15.0 g), and the mixture was refluxed overnight. The solvent was evaporated, and to the residue was added water. The mixture was extracted with ethyl acetate, and the organic layer was washed with water and saturated brine, and dried with anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified with distillation under reduced pressure to give 4-bromo-1,2-dipropoxybenzene (11.2 g) as colorless oil.

reactant | 4-bromo-1,2-dihydroxybenzene | 9.0 g | BrC1=CC(=C(C=C1)O)O | C6H5BrO2
reactant | 1-bromopropane | 9.1 ml | BrCCC | C3H7Br
reactant | potassium carbonate | 19.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 15.0 g | [I-].[Na+]
reactant | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-bromo-1,2-dipropoxybenzene | 11.2 g | BrC1=CC(=C(C=C1)OCCC)OCCC | C12H17BrO2
